US08492378B2
5-(5-methyl-1,3,4-oxadiazol-2-yl)-3-[4-(methylthio)phenyl]furo[3,2-b]pyridine
A solution of 3-[4-(methylthio)phenyl]furo[3,2-b]pyridine-5-carbohydrazide (0.20 g, 0.68 mmol) and triethyl orthoacetate (0.27 mL, 1.49 mmol) in n-butanol (5 mL) was heated under reflux for 1.5 hr. 1,8-Diazabicyclo[5.4.0]undec-7-ene (0.10 mL, 0.68 mmol) was added to the reaction mixture, and the mixture was further heated under reflux overnight. After cooling, the precipitate was collected by filtration and recrystallized from hexane/ethyl acetate to give the title compound (0.15 g, yield 67%) as colorless crystals.

reactant | 3-[4-(methylthio)phenyl]furo[3,2-b]pyridine-5-carbohydrazide | 0.68 mmol, 0.20 g | CSC1=CC=C(C=C1)C1=COC=2C1=NC(=CC2)C(=O)NN | C15H13N3O2S
reactant | triethyl orthoacetate | 1.49 mmol, 0.27 mL | C(C)(OCC)(OCC)OCC | C8H18O3
reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 0.68 mmol, 0.10 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | n-butanol | 5 mL | C(CCC)O | C4H10O
product | 5-(5-methyl-1,3,4-oxadiazol-2-yl)-3-[4-(methylthio)phenyl]furo[3,2-b]pyridine | 0.15 g, yield 67% | CC1=NN=C(O1)C1=CC=C2C(=N1)C(=CO2)C2=CC=C(C=C2)SC | C17H13N3O2S
